US07888364B2
175 μL of 1-iodo-2-methylpropane and 740 mg of Cesium Carbonate were added to 200 mg of methyl 2-chloro-4-(methylsulfonamido)benzoate in 2 mL of DMF and stirred in the microwave at 140° C. for 30 minutes. The reaction mixture was extracted in Ethyl Acetate twice with water, dried over Magnesium Sulfate, filtered, concentrated and purified on ISCO Combi-Flash to give methyl 2-chloro-4-(N-isobutylmethylsulfonamido)benzoate. 120 mg of methyl 2-chloro-4-(N-isobutylmethylsulfonamido)benzoate was hydrolyzed via Procedure M to yield 110 mg of crude 2-chloro-4-(N-isobutylmethylsulfonamido)benzoic acid. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-chloro-4-(N-isobutylmethylsulfonamido)benzoic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield 2-chloro-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(N-isobutylmethylsulfonamido)benzamide. MS (Q1) 492 (M)+.

reactant | 1-iodo-2-methylpropane | 175 μL | ICC(C)C | C4H9I
reactant | Cesium Carbonate | 740 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl 2-chloro-4-(methylsulfonamido)benzoate | 200 mg | ClC1=C(C(=O)OC)C=CC(=C1)NS(=O)(=O)C | C9H10ClNO4S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | methyl 2-chloro-4-(N-isobutylmethylsulfonamido)benzoate | ClC1=C(C(=O)OC)C=CC(=C1)N(S(=O)(=O)C)CC(C)C | C13H18ClNO4S
